US05112861
N,N-Diethyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide
The procedure described in Example 99 was repeated using 1.83 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 1.5 g of N,N-diethylcyanoacetamide. Yield 2.23 g (73%), m.p. 153-156° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.83 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | N,N-diethylcyanoacetamide | 1.5 g | C(C)N(C(CC#N)=O)CC | C7H12N2O
product | N,N-Diethyl-2-cyano-3-(3,4-dihydroxy-5-nitrophenyl)acrylamide | C(C)N(C(C(=CC1=CC(=C(C(=C1)[N+](=O)[O-])O)O)C#N)=O)CC | C14H15N3O5
